US05420151
e) (R)-5-Hydroxy-3-(N-isopropyl-N-n-propylamino)chroman
The HCl-salt of (R)-3-(N-isopropyl-N-n-propylamino)-5-methoxychroman (15.5 g, 52 mmol) was mixed with CH2Cl2 (100 mL) under nitrogen atmosphere and cooled to -60° C. BBr3 (27.2 g, 110 mmol) dissolved in CH2Cl2 (50 mL), was added slowly. The temperature was then raised to 0° C. and the reaction mixture was stirred at 0° C. for 12 h. The reaction mixture was then slowly added to a stirred saturated NaHCO3 solution. The layers were separated and the water layer was extracted once with CH2Cl2. The combined organic layers were dried (MgSO4). Removal of the solvent in vacuo gave the phenolic title compound. Yield: 98%. [α]D22 (Base)=-83° (C=0.1;MeOH).Mp(HCl-salt): 215°-222° C. (decomposes).

reactant | (R)-3-(N-isopropyl-N-n-propylamino)-5-methoxychroman | 52 mmol, 15.5 g | C(C)(C)N(CCC)[C@H]1COC2=CC=CC(=C2C1)OC | C16H25NO2
reactant | BBr3 | 110 mmol, 27.2 g | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-5-Hydroxy-3-(N-isopropyl-N-n-propylamino)chroman | Yield: 98% | OC1=C2C[C@H](COC2=CC=C1)N(CCC)C(C)C | C15H23NO2
